US07462600B2
Preparation 22: 2-methyl-5-(4-amino-phenyl)-[1,3,4]oxadiazole
2-Methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole (0.930 g, 4.54 mmol) was dissolved in MeOH. To this was added 10% palladium on carbon (0.06 g) and the mixture shaken under hydrogen pressure (35 psi, Parr apparatus) until the reaction was complete (LCMS monitored). The solids were filtered off and rinsed with MeOH. The filtrate was concentrated to give the title compound (0.76 g). MS (ESI+) for m/z 176 (M+H)+.

reactant | 2-Methyl-5-(4-nitro-phenyl)-[1,3,4]oxadiazole | 4.54 mmol, 0.930 g | CC=1OC(=NN1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O3
solvent | MeOH | CO | CH4O
catalyst | palladium on carbon | 0.06 g | [Pd] | Pd
product | 2-methyl-5-(4-amino-phenyl)-[1,3,4]oxadiazole | 0.76 g | CC=1OC(=NN1)C1=CC=C(C=C1)N | C9H9N3O
